### PR TITLE
[Merged by Bors] - feat(RingTheory/IsAdjoinRoot): add properties and constructors

### PR DESCRIPTION
**Pull request by artie2000**
* Add facts about `IsAdjoinRoot`: root is primitive, root is algebraic/integral, extension dimension, isomorphism with `AdjoinRoot`
  * Redefine isomorphism constructors to use the isomorphism with `AdjoinRoot`
* Add constructors for `IsAdjoinRoot` from primitive element

---

- [x] depends on: #27374
- [x] depends on: #27367
- [x] depends on: #28293

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/RingTheory/IsAdjoinRoot.lean [hunk 1]
```diff
@@ -150,17 +166,96 @@ theorem repr_zero_mem_span : h.repr 0 ∈ Ideal.span ({f} : Set R[X]) := by simp
...
 
-/-- Extensionality of the `IsAdjoinRoot` structure itself. See `IsAdjoinRootMonic.ext_elem`
-for extensionality of the ring elements. -/
-@[ext]
-theorem ext (h' : IsAdjoinRoot S f) (eq : h.root = h'.root) : h = h' :=
-  h.ext_map h' (fun x => by rw [← h.aeval_root_eq_map, ← h'.aeval_root_eq_map, eq])
+variable {T : Type*} [Ring T] [Algebra R T]
+
+/-- Algebra isomorphism with `R[X]/(f)`. -/
+def adjoinRootEquiv : AdjoinRoot f ≃ₐ[R] S :=
```
Comment (YaelDillies) [inline Mathlib/RingTheory/IsAdjoinRoot.lean]:
```suggestion
def adjoinRootAlgEquiv : AdjoinRoot f ≃ₐ[R] S :=
```
maybe?

File: Mathlib/RingTheory/IsAdjoinRoot.lean [hunk 2]
```diff
@@ -150,17 +166,96 @@ theorem repr_zero_mem_span : h.repr 0 ∈ Ideal.span ({f} : Set R[X]) := by simp
...
+@[simp]
+theorem adjoinRootEquiv_apply_root : h.adjoinRootEquiv (AdjoinRoot.root f) = h.root := rfl
+
+@[simp]
+theorem adjoinRootEquiv_symm_apply_root : h.adjoinRootEquiv.symm h.root = AdjoinRoot.root f :=
+    (AlgEquiv.symm_apply_eq h.adjoinRootEquiv).mpr rfl
+
+variable (h' : IsAdjoinRoot T f)
+
+/-- Adjoining a root gives a unique ring up to algebra isomorphism.
```
Comment (YaelDillies) [inline Mathlib/RingTheory/IsAdjoinRoot.lean]:
```suggestion
  /-- Adjoining a root gives a unique algebra up to isomorphism.
```

File: Mathlib/RingTheory/IsAdjoinRoot.lean [hunk 3]
```diff
@@ -150,17 +166,96 @@ theorem repr_zero_mem_span : h.repr 0 ∈ Ideal.span ({f} : Set R[X]) := by simp
...
+theorem aequiv_apply_map (z : R[X]) : h.aequiv h' (h.map z) = h'.map z := by
+  rw [← h.aequiv_map h']; simp [-aequiv_map]
+
+@[simp] theorem aequiv_self : h.aequiv h = AlgEquiv.refl := by ext; simp [aequiv_def]
+
+@[simp] theorem aequiv_symm : (h.aequiv h').symm = h'.aequiv h := rfl
+
+@[simp]
+theorem aequiv_aequiv {U : Type*} [Ring U] [Algebra R U] (h'' : IsAdjoinRoot U f) (x) :
+    (h'.aequiv h'') (h.aequiv h' x) = h.aequiv h'' x := by simp [aequiv_def]
```
Comment (YaelDillies) [inline Mathlib/RingTheory/IsAdjoinRoot.lean]:
```suggestion
    h'.aequiv h'' (h.aequiv h' x) = h.aequiv h'' x := by simp [aequiv_def]
```

File: Mathlib/RingTheory/IsAdjoinRoot.lean [hunk 4]
```diff
@@ -150,17 +166,96 @@ theorem repr_zero_mem_span : h.repr 0 ∈ Ideal.span ({f} : Set R[X]) := by simp
...
+@[simp]
+theorem adjoinRootEquiv_apply_root : h.adjoinRootEquiv (AdjoinRoot.root f) = h.root := rfl
+
+@[simp]
+theorem adjoinRootEquiv_symm_apply_root : h.adjoinRootEquiv.symm h.root = AdjoinRoot.root f :=
+    (AlgEquiv.symm_apply_eq h.adjoinRootEquiv).mpr rfl
+
+variable (h' : IsAdjoinRoot T f)
+
+  /-- Adjoining a root gives a unique algebra up to isomorphism.
```
Comment (YaelDillies) [inline Mathlib/RingTheory/IsAdjoinRoot.lean]:
```suggestion
/-- Adjoining a root gives a unique algebra up to isomorphism.
```

File: Mathlib/RingTheory/IsAdjoinRoot.lean (hunk 1 above)
Comment (artie2000) [reply Mathlib/RingTheory/IsAdjoinRoot.lean]: hmm
the existing names are:
* `IsAdjoinRoot.aequiv`: algebra isomorphism showing adjoining a root gives a unique ring
  up to isomorphism
* `IsAdjoinRoot.ofEquiv`: transfer `IsAdjoinRoot` across an algebra isomorphism

Comment (artie2000) [reply Mathlib/RingTheory/IsAdjoinRoot.lean]: this would be consistent with neither of them
but maybe we should rename one or both of these anyway?

Comment (YaelDillies) [reply Mathlib/RingTheory/IsAdjoinRoot.lean]: Yes, looks like both could be renamed to contain `AlgEquiv`

File: Mathlib/RingTheory/IsAdjoinRoot.lean [hunk 5]
```diff
@@ -619,3 +688,29 @@ theorem Algebra.adjoin.powerBasis'_minpoly_gen [IsDomain R] [IsDomain S] [NoZero
...
+
+section Field
+
+open scoped IntermediateField
+
+variable {F E : Type*} [Field F] [Field E] [Algebra F E] {f : F[X]}
+
+namespace IsAdjoinRoot
+
+theorem primitive_element_root (h : IsAdjoinRoot E f) : F⟮h.root⟯ = ⊤ :=
```
Comment (YaelDillies) [inline Mathlib/RingTheory/IsAdjoinRoot.lean:726]: Why `primitive_element` instead of `adjoin_eq_top`? Are we missing a `IsPrimitiveElement` predicate?

File: Mathlib/RingTheory/IsAdjoinRoot.lean (hunk 1 above)
Comment (artie2000) [reply Mathlib/RingTheory/IsAdjoinRoot.lean]: OK, time for another dependent PR..

File: Mathlib/RingTheory/IsAdjoinRoot.lean (hunk 5 above)
Comment (artie2000) [reply Mathlib/RingTheory/IsAdjoinRoot.lean:726]: From the file `FieldTheory.PrimitiveElement`:
"In declaration names, primitive_element abbreviates adjoin_simple_eq_top: it stands for the statement F⟮α⟯ = (⊤ : [Subalgebra](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Algebra/Subalgebra/Basic.html#Subalgebra) F E). We did not add an extra declaration IsPrimitiveElement F α := F⟮α⟯ = (⊤ : [Subalgebra](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Algebra/Subalgebra/Basic.html#Subalgebra) F E) because this requires more unfolding without much obvious benefit."

Comment (YaelDillies) [reply Mathlib/RingTheory/IsAdjoinRoot.lean:726]: That's a bit shady. `IsPrimitiveElem` could always be an `abbrev`

Comment (artie2000) [reply Mathlib/RingTheory/IsAdjoinRoot.lean:726]: `abbrevs` aren't fully transparent and cause all sorts of issues
in any case I think we should keep the design as-is for the purposes of this PR

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
